US04096253
A solution of 1-acetoxy-3-methoxyestra-1,3,5(10)-trien-17-one (7.0 g, 20.5 mM) in 150 ml of 5% anhydrous methanolic potassium hydroxide is stirred at room temperature for 1 hr. The resulting dark purple solution is added to 700 ml of cold H2O and acidified with 10% HCl to give a white solid which is filtered and recrystallized from acetone-H2O to give 1-hydroxy-3-methoxyestra-1,3,5(10)-trien-17-one, yield 5.4 g (88%), m.p. 220°-222°. Further recrystallization from ethyl acetate gives a product with a m.p. 226°-229°.

reactant | 1-acetoxy-3-methoxyestra-1,3,5(10)-trien-17-one | 20.5 mM, 7.0 g | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OC | C21H26O4
reactant | H2O | 700 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | potassium hydroxide | 150 ml | [OH-].[K+]
product | 1-hydroxy-3-methoxyestra-1,3,5(10)-trien-17-one | OC1=CC(=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OC | C19H24O3
